US05268377
Methyl 2-n-butyl-5-benzyloxycarbonyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate (1.26 g) and a catalytic amount of 10 % palladium-carbon are added to methanol (300 ml), and the mixture is stirred under hydrogen atmosphere. After the reaction is completed, palladium-carbon is removed by filtration, and the filtrate is evaporated under reduced pressure to give methyl 2-n-butyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate (0.94 g) as foam.

reactant | Methyl 2-n-butyl-5-benzyloxycarbonyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate | 1.26 g | C(CCC)C=1N(C2=C(CN(C(C2)C(=O)OC)C(=O)OCC2=CC=CC=C2)N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H49N7O4
catalyst | palladium-carbon | [C].[Pd]
solvent | methanol | 300 ml | CO | CH4O
product | methyl 2-n-butyl-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate | 0.94 g | C(CCC)C=1N(C2=C(CNC(C2)C(=O)OC)N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N7O2
